US04618627
To a mixture of 1 ml of anhydrous ether and 0.6 g of metallic magnesium were added 0.1 ml of ethyl iodide and a piece of iodine crystal followed by heating to initiate the reaction and then a mixture of 6.7 g of 10-benzyloxy-1-chlorodecane and 10 ml of anhydrous ether was added dropwise to the aforesaid mixture. After the reaction was over, the reaction mixture was refluxed for 2 hours. After cooling, the reaction mixture was added dropwise to a solution of 6 g of 3,4-dibenzyloxybenzaldehyde dissolved in 30 ml of tetrahydrofuran at 0° to 5° C. Thereafter, the mixture was stirred for 30 minutes at room temperature and after adding 300 ml of an aqueous 1% hydrochloric acid solution to the reaction mixture, the product was extracted with 100 ml of toluene. The extract was washed with water, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was dissolved in 30 ml of ethanol, the solution was allowed to stand overnight under cooling to 0° to 5° C., and the crystals thus precipitated were collected by filtration. By drying the crystals, 5 g of 11-benzyloxy-1-(3,4-dibenzyloxyphenyl)-1-undecanol was obtained. Melting point 50°-52° C.

reactant | magnesium | 0.6 g | [Mg] | Mg
reactant | ethyl iodide | 0.1 ml | C(C)I | C2H5I
reactant | iodine | II | I2
reactant | 10-benzyloxy-1-chlorodecane | 6.7 g | C(C1=CC=CC=C1)OCCCCCCCCCCCl | C17H27ClO
reactant | 3,4-dibenzyloxybenzaldehyde | 6 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C21H18O3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 1 ml | CCOCC | C4H10O
product | 11-benzyloxy-1-(3,4-dibenzyloxyphenyl)-1-undecanol | 5 g | C(C1=CC=CC=C1)OCCCCCCCCCCC(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C38H46O4
